US07629346B2
6-(4-Chloro-phenyl)-5-cyclopentylmethoxy-pyrazine-2-carboxylic acid (2-cyclopropyl-2-hydroxy-propyl)-amide
The title compound was prepared in analogy to example 26 starting from 5-bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid (-2-cyclopropyl-2-hydroxy-propyl)-amide and replacing ethylenglycolmonomethylether by cyclopentylmethanol. MS (ISP) (M+H+)=430.1.

reactant | 5-bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid (-2-cyclopropyl-2-hydroxy-propyl)-amide | C1(CC1)C(CNC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)Cl)(C)O | C17H17BrClN3O2
reactant | cyclopentylmethanol | C1(CCCC1)CO | C6H12O
product | 6-(4-Chloro-phenyl)-5-cyclopentylmethoxy-pyrazine-2-carboxylic acid (2-cyclopropyl-2-hydroxy-propyl)-amide | C1(CC1)C(CNC(=O)C1=NC(=C(N=C1)OCC1CCCC1)C1=CC=C(C=C1)Cl)(C)O | C23H28ClN3O3
